US08530504B2
Ethyl(5-chloro-4-formyl-3-methyl-1H-pyrazol-1-yl)acetate
DMF (2.01 mL) was cooled to 0° C. and phosphorus oxychloride (5.67 mL, 60.8 mmol) was added dropwise. This reaction mixture was warmed to room temperature, and then ethyl(3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-1-yl)acetate (1.60 g, 8.69 mmol) was added slowly, and then the mixture was stirred at 110° C. for 3.5 hours. After the reaction was completed, the mixture was poured into ice water, a 5N aqueous solution of sodium hydroxide and sodium hydrogencarbonate were added to the mixture for neutralization. The extraction with ethyl acetate was carried out, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was filtered to obtain filtrate, and the solvent was distilled off under reduced pressure to yield a solid, and the obtained solid was washed with n-heptane/diisopropyl ether mixture (1:1), and dried to obtain the title compound 1.28 g (5.55 mmol).

reactant | phosphorus oxychloride | 60.8 mmol, 5.67 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl(3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-1-yl)acetate | 8.69 mmol, 1.60 g | C(C)OC(CN1N=C(CC1=O)C)=O | C8H12N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 2.01 mL | CN(C)C=O | C3H7NO
product | Ethyl(5-chloro-4-formyl-3-methyl-1H-pyrazol-1-yl)acetate | 5.55 mmol, 1.28 g | C(C)OC(CN1N=C(C(=C1Cl)C=O)C)=O | C9H11ClN2O3
